US08053588B2
A solution of 4-(diallylethoxysilyl)aniline (153 mg, 0.62 mmol) and distilled dichloromethane (dist. CH2Cl2: 5 mL) was added with dist. Et3N (86 μL, 0.62 mmol), and then acryloyl chloride (50 μL, 0.62 mmol) was added dropwise slowly at 0° C. The mixture thus obtained was stirred under a nitrogen atmosphere at 0° C. for 8 hours. After that, the solvent in the mixture was distilled without being heated to obtain a residue. Subsequently, the residue thus obtained was separated and purified by PTLC (hexane/EtOAc=2/1) to obtain 1-acryloylamino-4-(diallylethoxysilyl)benzene (110 mg, 59% yield).

reactant | 4-(diallylethoxysilyl)aniline | 0.62 mmol, 153 mg | C(C=C)C(CO[SiH2]C1=CC=C(N)C=C1)CC=C | C14H21NOSi
reactant | Et3N | 0.62 mmol, 86 μL | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 0.62 mmol, 50 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-acryloylamino-4-(diallylethoxysilyl)benzene | 110 mg, 59% yield | C(C=C)(=O)NC1=CC=C(C=C1)[SiH2]OCC(CC=C)CC=C | C17H23NO2Si
